US07790724B2
a) 6-Cyclohex-1-enyl-benzo[1,3]dioxol-5-ylamine
The title compound was prepared by Suzuki coupling of 6-bromo-benzo[1,3]dioxol-5-ylamine (Bioorganic & Medicinal Chemistry (2002), 10(11), 3395-3400) and cyclohexen-1-ylboronic acid according the procedure Example 44, step (g). Mass spectrum (ESI, m/z): Calcd. for C13H15NO2, 218.1 (M+H), found 218.1.

reactant | 6-bromo-benzo[1,3]dioxol-5-ylamine | BrC=1C(=CC2=C(OCO2)C1)N | C7H6BrNO2
reactant | cyclohexen-1-ylboronic acid | C1(=CCCCC1)B(O)O | C6H11BO2
product | 6-Cyclohex-1-enyl-benzo[1,3]dioxol-5-ylamine | C1(=CCCCC1)C=1C(=CC2=C(OCO2)C1)N | C13H15NO2
